US06747023B1
4-[(5-Chloroindol-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine hydrochloride
To an ethanol solution (50 ml) of 1-(tert-butoxycarbonyl)-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine (710 mg) was added a saturated ethanol hydrochloride solution (20 ml) at room temperature. The resulting mixture was stirred for 3 hours. After concentration of the reaction mixture under reduced pressure, diethyl ether and ethanol were added to precipitate crystals. The resulting crystals were collected by filtration, washed with ethanol and then dried under reduced pressure. The crystals were dissolved in N,N-dimethylformamide to form an N,N-dimethylformamide solution (50 ml), followed by the addition of 1-hydroxybenzotriazole (68.8 mg), 1-(3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (115.4 mg), lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (189.0 mg) and N-methylmorpholine (140.5 mg) at room temperature. The resulting mixture was stirred at room temperature for 19 hours. The reaction solvent was distilled off under reduced pressure. Distilled water and ethyl acetate were added to the residue and the water layer was extracted three times. The organic layers were combined, washed four times with distilled water, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (methanol : ethyl acetate=1:50). Diethyl ether and methylene chloride were added to the purified product to precipitate crystals. The resulting crystals were collected by filtration, followed by washing with diethyl ether. A 1N aqueous hydrochloric acid in ethanol (0.5 ml) and a small amount of distilled water were added. The solvent was then distilled off under reduced pressure. The residue was dried under heat at 60° C. under reduced pressure, whereby the title compound (187 mg) was obtained as a yellow amorphous solid. MS (FAB+) m/z: 607 [(M+H)+, Cl35], 609 [(M+H)+, Cl37].

reactant | 1-(tert-butoxycarbonyl)-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine | 710 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl)CC(=O)N1CCOCC1 | C23H31ClN4O6S
reactant | ethanol hydrochloride | 20 ml | Cl.C(C)O
reactant | 1-hydroxybenzotriazole | 68.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 115.4 mg | Cl.CN(CCCN=C=NCC)C
reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 189.0 mg | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | N-methylmorpholine | 140.5 mg | CN1CCOCC1 | C5H11NO
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[(5-Chloroindol-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)CC(=O)N1CCOCC1 | InChI=1S/C26H31ClN6O5S2.ClH/c1-16-10-21-22(14-28-16)39-25(30-21)26(35)33-5-4-32(15-19(33)13-24(34)31-6-8-38-9-7-31)40(36,37)23-12-17-11-18(27)2-3-20(17)29-23;/h2-3,11-12,16,19,28-29H,4-10,13-15H2,1H3;1H
